US05401848
A. 4-Methyl-4-phenyl-2-pentanone
To a slurry of aluminum chloride (40.0 g, 0.3 mole) in benzene (90 ml) maintained at 10° C. under argon was added dropwise mesityl oxide (19.63 g, 0.2 mole). Upon completion of the addition the reaction was stirred at room temperature for 1.5 hours. The reaction mixture was poured onto ice/10% HCl (350 g). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 ml). The combined organics were washed with distilled water, saturated sodium hydrogen carbonate solution, saturated sodium chloride solution and dried over sodium sulfate. The solvent was evaporated under vacuum and the crude product (31.6 g) was vacuum distilled (b.p.=107° C. at 3.0 mmHg) to obtain 24.5 g of the title A compound as a colorless oil. 1H NMR (CDCl3) δ 7.38-7.19 (m, 5H), 2.74 (s, 2H), 1.80 (s, 3H), 1.43 (s, 6H). 13C NMR (CDCl 3) δ 207.94, 148.16, 128.26, 125.95, 125.46, 56.96, 37.29, 31.76, 28.88.

reactant | aluminum chloride | 0.3 mole, 40.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | mesityl oxide | 0.2 mole, 19.63 g | O=C(C)C=C(C)C | C6H10O
reactant | benzene | 90 ml | C1=CC=CC=C1 | C6H6
product | 4-Methyl-4-phenyl-2-pentanone | CC(CC(C)=O)(C)C1=CC=CC=C1 | C12H16O
